US05158951
Preparation of N-pentyl-6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxamide
A mixture containing 8.16 g (0.04 mol) of 6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid and 6.2 ml (0.44 mol) of triethylamine in 240 ml of chloroform is cooled below -10° C. by ice-salt. A solution of 4 ml (0.042 mol) of ethyl chloroformate in 20 ml of chloroform is dropped to the above mixture at -15° C. during 20 minutes. After stirring for 5 minutes, 3.835 g (0.044 mol) of n-pentylamine dissolved in 40 ml of chloroform are dropped to the above solution at -15° C. during 20 minutes. The reaction mixture is stirred below -10° C. for 1 hour and then let to stand overnight under cooling by ice. For working up, the reaction mixture is washed 3 times with 100 ml of 5% sodium hydrogen carbonate solution each and then 3 times with 100 ml of water each. The organic phase is dried over anhydrous sodium sulfate, filtered and evaporated to give 6.1 g (55.8%) of the named product as orange yellow crystals after recrystallization from ethanol, m.p.: 112°-116° C.

reactant | 6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid | 0.04 mol, 8.16 g | CC1=CC=CC=2N1C(C(=CN2)C(=O)O)=O | C10H8N2O3
reactant | triethylamine | 0.44 mol, 6.2 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.042 mol, 4 ml | ClC(=O)OCC | C3H5ClO2
reactant | n-pentylamine | 0.044 mol, 3.835 g | C(CCCC)N | C5H13N
solvent | chloroform | 240 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | N-pentyl-6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxamide | 6.1 g, 55.8% | C(CCCC)NC(=O)C1=CN=C2N(C1=O)C(=CC=C2)C | C15H19N3O2
